US05395946
A solution of 60 g tosylchloride in 400 ml benzene is added to a stirred and cooled mixture of 17.5 g 2-cyanomethyl1,3 propanediol, 1.3 g triethylbenzylammonium chloride and 150 ml 30% (w/w) aqueous NaOH solution. This mixture is stirred overnight. The organic and aqueous layers are separated and the aqueous layer is washed with diethylether. The combined organic phase is washed with water until neutral, dried and evaporated. 2-Cyanomethyl-1,3-bis(tosyloxy)propane is obtained in a obtained in a yield of 62 g; liquid. Identification by means of IR, NMR and mass spectra.

reactant | tosylchloride | 60 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-cyanomethyl1,3 propanediol | 17.5 g | C(#N)CC(CO)CO | C5H9NO2
reactant | NaOH | 150 ml | [OH-].[Na+]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylbenzylammonium chloride | 1.3 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2-Cyanomethyl-1,3-bis(tosyloxy)propane | C(#N)CC(COS(=O)(=O)C1=CC=C(C)C=C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C19H21NO6S2
